US08912188B2
To a solution of methyl 2-(chroman-6-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (130 mg, 0.33 mmol) in water (1 mL) and tetrahydrofuran (5 mL) was added sodium hydroxide (53 mg, 1.33 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (30 mL), adjusted to pH 4 with HCl (3N) to give the precipitate, which was collected by filtration to afford 2-(chroman-6-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a light yellow solid (80 mg, 61%).

reactant | methyl 2-(chroman-6-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.33 mmol, 130 mg | O1CCCC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C23H25N3O3
reactant | sodium hydroxide | 1.33 mmol, 53 mg | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(chroman-6-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 80 mg, 61% | O1CCCC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C22H23N3O3
